US05962458
1,1'-(azodicarbonyl)dipiperidine (480 mg, 1.9 mmol) was added in portions to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (200 mg, 0.63 mmol), 3-benzyloxypropanol (150 μl, 0.95 mmol) and tributylphosphine (459 μl, 1.86 mmol) in methylene chloride (20 ml) at 5° C. The reaction was stirred for 1 hour at 5° C. and then for 18 hours at ambient temperature. The mixture was diluted with ether and stirred for 15 minutes. The insolubles were removed by filtration and the volatiles were removed from the filtrate by evaporation. The residue was partitioned between ethyl acetate and water, and the organic layer was separated, dried (MgSO4) and the solvent removed by evaporation. A 1M solution of ethereal hydrogen chloride was added to the residue, the resulting solution was reduced in volume by evaporation and the resulting precipitate was collected by filtration and dried to give 7-(3-benzyloxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (90 mg, 31%).

reactant | 1,1'-(azodicarbonyl)dipiperidine | 1.9 mmol, 480 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.63 mmol, 200 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 3-benzyloxypropanol | 0.95 mmol, 150 μl | C(C1=CC=CC=C1)OCCCO | C10H14O2
reactant | tributylphosphine | 1.86 mmol, 459 μl | C(CCC)P(CCCC)CCCC | C12H27P
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 7-(3-benzyloxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 90 mg, 31% | Cl.C(C1=CC=CC=C1)OCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | InChI=1S/C25H23ClFN3O3.ClH/c1-31-23-13-19-22(28-16-29-25(19)30-21-9-8-18(26)12-20(21)27)14-24(23)33-11-5-10-32-15-17-6-3-2-4-7-17;/h2-4,6-9,12-14,16H,5,10-11,15H2,1H3,(H,28,29,30);1H
